US07612114B2
6-{2-{Ethyl[4-(2-ethylaminoethoxy)-3-fluorobenzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (25 mg) and 2-chloro-N-ethylacetamide (11 mg) according to an analogous synthetic method to Example 567 and purified by LC-MS, the title compound (5.0 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 25 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 2-chloro-N-ethylacetamide | 11 mg | ClCC(=O)NCC | C4H8ClNO
product | 6-{2-{Ethyl[4-(2-ethylaminoethoxy)-3-fluorobenzyl]amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 5.0 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCNCC)F | C30H37FN2O3
